US08044052B2
Synthesis of 4-(3-(5-(pent-4-ynyloxy)pyridin-2-yloxy)benzylidene)-N-(Pyridazin-3-yl)piperidine-1-carboxamide
5-(Pent-4-ynyloxy)-2-(3-(piperidin-4-ylidenemethyl)phenoxy)pyridine (0.26 g, 0.746 mmol) and phenyl pyridazin-3-ylcarbamate (0.16 g, 0.746 mmol) were dissolved in DMSO (3 mL) and triethylamine (0.3 mL) was added dropwise. The reaction was stirred for 12 h at RT. The reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed with water, dried over sodium sulfate and evaporated to dryness. The residue was purified by silica gel column chromatography (acetone:hexane, 2:5) to give the title compound (0.225 g, 64%). 1H NMR (500 MHz, CDCl3): δ 8.77 (s, 1H), 8.40 (s, 1H), 7.89 (s, 1H), 7.46 (t, J=4.5 Hz, 1H), 7.29 (m, 2H), 6.98 (d, J=7.5 Hz, 1H), 6.92 (m, 2H), 6.87 (d, J=8.75 Hz, 1H), 6.40 (s, 1H), 4.08 (t, J=5.75 Hz, 2H), 3.70 (m, 2H), 3.59 (m, 2H), 2.60 (d, J=5.2 Hz, 2H), 2.47 (m, 2H), 2.40 (t, J=6.6 Hz, 2H), 1.99 (m, 3H); 13C NMR (125 MHz, CDCl3): δ157.48, 156.60, 155.19, 151.80, 138.72, 137.46, 133.67, 129.42, 128.15, 126.84, 124.96, 124.59, 120.58, 118.38, 112.52, 83.14, 69.12, 67.25, 45.66, 44.64, 35.76, 29.13, 28.08, 15.06; m/z (470.2 MH+); HPLC: 97.8%.

reactant | 5-(Pent-4-ynyloxy)-2-(3-(piperidin-4-ylidenemethyl)phenoxy)pyridine | 0.746 mmol, 0.26 g | C(CCC#C)OC=1C=CC(=NC1)OC1=CC(=CC=C1)C=C1CCNCC1 | C22H24N2O2
reactant | phenyl pyridazin-3-ylcarbamate | 0.746 mmol, 0.16 g | N1=NC(=CC=C1)NC(OC1=CC=CC=C1)=O | C11H9N3O2
reactant | triethylamine | 0.3 mL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 4-(3-(5-(pent-4-ynyloxy)pyridin-2-yloxy)benzylidene)-N-(Pyridazin-3-yl)piperidine-1-carboxamide | 0.225 g, 64% | C(CCC#C)OC=1C=CC(=NC1)OC=1C=C(C=C2CCN(CC2)C(=O)NC=2N=NC=CC2)C=CC1 | C27H27N5O3
